US08426447B2
A sealable tube was charged with (5S)-7-iodo-3-bromo-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine (350 mg, 0.764 mmol), pyridin-3-ylboronic acid (94 mg, 0.764 mmol), tetrakis(triphenylphosphine)palladium (20.04 mg, 0.076 mmol) and THF (7641 μL, 0.764 mmol). The mixture was purged with Ar for 2 minutes then a solution of potassium carbonate (1.5 M) (1019 μL, 1.528 mmol) was added and the reaction vessel was sealed and heated at 110° C. for 6 hours. The reaction was diluted with water (100 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (4×50 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown oil that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (5S)-3-bromo-7-(3-pyridinyl)spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine (175 mg, 0.428 mmol, 56.0% yield) as a brown foam. MS m/z=409.0 [M+H]+. Calc'd for C19H14BrN4O2: 409.0.

reactant | (5S)-7-iodo-3-bromo-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine | 0.764 mmol, 350 mg | IC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)Br | C14H9BrIN3O2
reactant | pyridin-3-ylboronic acid | 0.764 mmol, 94 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | THF | 0.764 mmol, 7641 μL | C1CCOC1 | C4H8O
reactant | potassium carbonate | 1.528 mmol, 1.5 M, 1019 μL | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.076 mmol, 20.04 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (5S)-3-bromo-7-(3-pyridinyl)spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine | 0.428 mmol, 175 mg, 56.0% yield | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1 | C19H13BrN4O2
